US06809108B1
(3S)-1,1-dicyclopropylmethyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)piperidinium bromide
The title compound was prepared by a method similar to Example 130, using (2R)-N-{((3S)-1-cyclopropylmethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide and cyclopropylmethyl bromide. The compound was obtained as a white solid.

reactant | (2R)-N-{((3S)-1-cyclopropylmethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | C1(CC1)CN1C[C@@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H50N4O4
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | (3S)-1,1-dicyclopropylmethyl-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)piperidinium bromide | [Br-].C1(CC1)C[N+]1(C[C@@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1CC1 | InChI=1S/C45H56N4O4.BrH/c50-39-26-41(48(29-39)42(51)27-45(36-13-4-1-5-14-36,37-15-6-2-7-16-37)38-17-8-3-9-18-38)44(53)47-24-10-19-40(47)43(52)46-28-35-12-11-25-49(32-35,30-33-20-21-33)31-34-22-23-34;/h1-9,13-18,33-35,39-41,50H,10-12,19-32H2;1H/t35-,39+,40+,41-;/m0./s1
